US05807859
The process is performed as in Example 3 but starting with 1.1 g of 10-(4-imidazolylmethylene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, 250 ml of dimethylformamide, 5 ml of acetic acid and 0.1 g of 10% palladium-on-charcoal. After evaporation of the solvents, the crude product is purified by chromatography on a column of silica (100 g partially deactivated with 3% water), eluting with a mixture of chloroform, methanol and 28% aqueous ammonia (24/6/1 by volume). A pale yellow solid is obtained which is triturated with 20 ml of water, filtered, washed with 20 ml of ethyl ether and dried at 80° C. under vacuum (2 mmHg; 0.26 kPa) to give 0.16 g of 10-(4-imidazolylmethyl)-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one in the form of an off-white solid melting above 260° C. (Analysis, % calculated C: 67.32, H: 4.32, N: 23.09, O: 5.27, % found C: 67.7, H: 4.2, N: 22.6).

reactant | 10-(4-imidazolylmethylene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 1.1 g | N1C=NC(=C1)C=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C17H11N5O
reactant | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
catalyst | palladium-on-charcoal | 0.1 g | [Pd] | Pd
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 10-(4-imidazolylmethyl)-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one | 0.16 g | N1C=NC(=C1)CC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C17H13N5O
